US08039450B2
To a solution of 6-(4-bromo-3-(1,3-dioxolan-2-yl)-2-fluorophenoxy)-2-methoxynicotinonitrile (2.31 g, 5.85 mmol) in 1,4-dioxane (30 mL) was added potassium acetate, bis(pinacolato)diboron (1.64 g, 6.44 mmol), and 1,1′-Bis(diphenylphosphino)ferrocene]dichloropalladium(II) (0.119 g, 0.146 mmol). The reaction was stirred under nitrogen balloon at 80° C. overnight. The reaction was cooled to room temperature and filtered through Celite using ethyl acetate. The solvent was removed under reduced pressure. The residue was purified by silica gel column using Combiflash to give 6-(3-(1,3-dioxolan-2-yl)-2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy)-2-methoxynicotinonitrile (2.18 g, 85% yield).

reactant | 6-(4-bromo-3-(1,3-dioxolan-2-yl)-2-fluorophenoxy)-2-methoxynicotinonitrile | 5.85 mmol, 2.31 g | BrC1=C(C(=C(OC2=NC(=C(C#N)C=C2)OC)C=C1)F)C1OCCO1 | C16H12BrFN2O4
reactant | potassium acetate | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 6.44 mmol, 1.64 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
solvent | 1,4-dioxane | 30 mL | O1CCOCC1 | C4H8O2
catalyst | 1,1′-Bis(diphenylphosphino)ferrocene | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | dichloropalladium(II) | 0.146 mmol, 0.119 g | Cl[Pd]Cl
product | 6-(3-(1,3-dioxolan-2-yl)-2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy)-2-methoxynicotinonitrile | 2.18 g, 85% yield | O1C(OCC1)C=1C(=C(OC2=NC(=C(C#N)C=C2)OC)C=CC1B1OC(C(O1)(C)C)(C)C)F | C22H24BFN2O6
